US07067517B2
Methyl-phenyl-carbamic acid 5-[3,3-dimethyl-5-(4-methyl-piperazin-1-yl)-5-oxo-pentanoylamino]-pyridin-2-yl ester
Thionyl chloride (56 microL, 0.78 mmol) was added to a stirred solution of 3,3-dimethyl-4-[6-(methyl-phenyl-carbamoyloxy)-pyridin-3-ylcarbamoyl]-butyric acid (0.15 g, 0.39 mmol) in dichloromethane (5 mL) and 2 drops of dimethylformamide. After stirring for 10 minutes N-methylpiperazine (1 mL) was added and stirring was continued for 2 hours. The solvent was evaporated in vacuo. The residue was redissolved in dichloromethane and extracted with water, dried over sodium sulphate, filtered and evaporated in vacuo. The crude product was purified by filtration over a short column (SiO2, ethyl acetate followed by acetone) yielding the title compound (93 mg, 51% yield) as a thick oil.

reactant | Thionyl chloride | 0.78 mmol | S(=O)(Cl)Cl | Cl2OS
reactant | 3,3-dimethyl-4-[6-(methyl-phenyl-carbamoyloxy)-pyridin-3-ylcarbamoyl]-butyric acid | 0.39 mmol, 0.15 g | CC(CC(=O)O)(CC(NC=1C=NC(=CC1)OC(N(C1=CC=CC=C1)C)=O)=O)C | C20H23N3O5
reactant | N-methylpiperazine | 1 mL | CN1CCNCC1 | C5H12N2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
catalyst | dimethylformamide | 2 drops | CN(C=O)C | C3H7NO
product | Methyl-phenyl-carbamic acid 5-[3,3-dimethyl-5-(4-methyl-piperazin-1-yl)-5-oxo-pentanoylamino]-pyridin-2-yl ester | 93 mg, 51% yield | CC(CC(=O)NC=1C=CC(=NC1)OC(N(C1=CC=CC=C1)C)=O)(CC(=O)N1CCN(CC1)C)C | C25H33N5O4
